US07655666B2
N-[6-(1-Hydroxy-butyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide
To a solution of N-(6-butyryl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (131 mg, 0.333 mmol) in THF (3 mL) and MeOH (3 mL) was added NaBH4 (131 mg, 3.32 mmol) portionwise over 10 min at r.t. The reaction mixture was stirred at r.t. for 18 h, poured onto a mixture of water and EtOAc then adjusted to pH 3-4 by addition of 1N aq HCl. The organic phase was washed twice with brine, dried (Na2SO4), filtered and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography (10 g silica gel, DCM/MeOH (1:0→9:1) to afford the title compound (94 mg, 71%) as colorless crystals. m.p.: 223-226° C., ESI-MS: m/z 396 [M+H]+, m/z 394 [M−H]−.

reactant | N-(6-butyryl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 0.333 mmol, 131 mg | C(CCC)(=O)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C14H14F3N3O5S
reactant | NaBH4 | 3.32 mmol, 131 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[6-(1-Hydroxy-butyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 94 mg, 71% | OC(CCC)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C14H16F3N3O5S
